US09056859B2
To a solution of 2-bromo-6-nitrobenzyl (2E)-but-2-en-1-yl ether (3.3 g, 11.19 mmol) in TEA (100 mL) was added P(o-Tol)3 (196 mg, 0.873 mmol) and Pd(OAC)2(1.0 g, 3.21 mmol), and the mixture was stirred at reflux for 16 h. Then the mixture was concentrated in vacuo, and the mixture was partitioned between water and EtOAc. The combined organic layers were washed with HCl (1N) and brine, dried and concentrated in vacuo. The residue was purified with silica gel cloumn chromatography to give 4-ethenyl-8-nitro-3,4-dihydro-1H-isochromene. 1H-NMR (400 MHz, CDCl3) δ 7.96 (d, J=8.0 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.31 (t, J=8.0 Hz, 2H), 5.74˜5.82 (m, 1H), 5.14˜5.19 (m, 2H), 5.04 (d, J=4.0 Hz, 2H), 3.93˜3.98 (m, 1H).

reactant | 2-bromo-6-nitrobenzyl (2E)-but-2-en-1-yl ether | 11.19 mmol, 3.3 g | C(\C=C\C)OCC1=C(C=CC=C1[N+](=O)[O-])Br | C11H12BrNO3
reactant | P(o-Tol)3 | 0.873 mmol, 196 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
catalyst | Pd(OAC)2 | 3.21 mmol, 1.0 g | CC(=O)O.CC(=O)O.[Pd]
product | 4-ethenyl-8-nitro-3,4-dihydro-1H-isochromene | C(=C)C1COCC2=C(C=CC=C12)[N+](=O)[O-] | C11H11NO3
